US08664220B2
Step 2: 1-(4′-{4-[3-(2-Methoxy-pyridin-3-yl)-phenylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 3-(3-bromo-phenyl)-2-methoxy-pyridine.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 3-(3-bromo-phenyl)-2-methoxy-pyridine | BrC=1C=C(C=CC1)C=1C(=NC=CC1)OC | C12H10BrNO
product | 1-(4′-{4-[3-(2-Methoxy-pyridin-3-yl)-phenylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)C=1C(=NC=CC1)OC | C34H31N3O4
